US08293916B2
Step 3: 4-Iodo-2,5-dimethyl-1-(4-trifluoromethyl-phenyl)-1H-imidazole
4,5-Diiodo-2-methyl-1-(4-trifluoromethyl-phenyl)-1H-imidazole (1.0 g, 2.1 mmol) was dissolved in 15 ml THF and cooled to −75° C. n-Butyllithium (1.6M in Hexane) (1.60 ml, 2.5 mmol) was added, and the mixture stirred for 60 min at −75° C. Iodomethane (0.19 ml, 3.0 mmol) was added and stirring was continued 30 min. at −75° C. and then 1 h without dry ice bath. The reaction mixture was quenched with sat. NaHCO3− solution and extracted with water and ethyl acetate. The combined organic extracts were dried with sodium sulfate, filtered and evaporated. The crude product was purified by flash chromatography on silica gel (heptane/ethylacetate 100:0→60:40 gradient) and by recrystallization from little ethyl acetate and cyclohexane. The desired compound was obtained as a white solid (197 mg, 26%), MS: m/e=367.0 (M+H+).

reactant | 4,5-Diiodo-2-methyl-1-(4-trifluoromethyl-phenyl)-1H-imidazole | 2.1 mmol, 1.0 g | IC=1N=C(N(C1I)C1=CC=C(C=C1)C(F)(F)F)C | C11H7F3I2N2
reactant | n-Butyllithium | 2.5 mmol, 1.6M, 1.60 ml | C(CCC)[Li]
reactant | Iodomethane | 3.0 mmol, 0.19 ml | IC | CH3I
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 4-Iodo-2,5-dimethyl-1-(4-trifluoromethyl-phenyl)-1H-imidazole | IC=1N=C(N(C1C)C1=CC=C(C=C1)C(F)(F)F)C | C12H10F3IN2
